* Reduced peak-current-mode buck template; electrical verdict comes from LTspice.
* Parameter origins are recorded in template-parameters.json beside the delivered model.
.subckt TPS54332DDA BOOT VIN EN SS VSENSE COMP GND PH POWERPAD
.param VREF=0.8 FSW=1000000 TONMIN=1.1e-07 DMAX=0.91 ILIM=5.35
.param GMCS=12 VECO=0.5 ECO_I=0.16 EAGM=9.2e-05 EAI=7e-06
.param ISS=2e-06 SSOFS=0.01 ENTH=1.25 ENHYS=0.05 UVTH=3.5
.param UVHYS=0.2 IQOP=8.2e-05 IQSD_BASE=0 EN_PULLUP=1e-06 RON=0.08
.param FOLD6=0.6 FOLD4=0.4 FOLD2=0.2
Rpad POWERPAD GND 1m
* EN bias permits a floating EN; the externally held-low pull-up draw is part of IQSD.
Bpu VIN EN I={EN_PULLUP}*limit((5-V(EN,GND))/0.2,0,1)
Ren EN GND 100Meg
Aen EN 0 0 0 0 nc_en en_ok GND SCHMITT Vt={ENTH-ENHYS/2} Vh={ENHYS/2} Vhigh=1 Vlow=0
Auv VIN 0 0 0 0 nc_uv uv_ok GND SCHMITT Vt={UVTH-UVHYS/2} Vh={UVHYS/2} Vhigh=1 Vlow=0
Aon en_ok uv_ok 0 0 0 nc_on run GND AND Vhigh=1 Vlow=0
Rrun run GND 1Meg
Bq VIN GND I={IQSD_BASE}+({IQOP}-{IQSD_BASE})*V(run,GND)
* SS and error-amplifier current are bounded by cited rows when present.
Bss VIN SS I={ISS}*V(run,GND)*limit((3-V(SS,GND))/0.1,0,1)
Sss SS GND nrun GND SSOFF
Rss SS GND 1G
Bref ref GND V=min(V(SS,GND)+{SSOFS},{VREF})
Rref ref GND 1Meg
Bea GND COMP I=limit({EAGM}*(V(ref,GND)-V(VSENSE,GND)),-{EAI},{EAI})*V(run,GND)
Rvs VSENSE GND 100Meg
Dchi COMP chi DCL
Vchi chi GND 2.5
Dclo clo COMP DCL
Vclo clo GND {VECO}
Rcomp COMP GND 100Meg
* Peak switch-current command. Eco clamp permits pulse skipping at light load.
Bipk ipk GND V=limit({GMCS}*(V(COMP,GND)-{VECO}),0,{ILIM})
Ripk ipk GND 1Meg
Aeco COMP 0 0 0 0 nc_eco eco_ok GND SCHMITT Vt={VECO} Vh=10m Vhigh=1 Vlow=0
Becomand eco_demand GND V=limit((V(ipk,GND)-{ECO_I})/20m,0,1)
* At enable, soft-start allows minimum-width pulses before COMP has charged;
* after SS reaches its reference region, Eco-mode suppresses unwanted pulses.
Bstartup startup GND V=limit(({VREF}/2-V(SS,GND))/10m,0,1)
Ballow allow GND V=max(V(startup,GND),V(eco_ok,GND)*V(eco_demand,GND))
* Four synchronized clocks implement the documented 1, 1/2, 1/4, 1/8 foldback.
Vclk1 clk1 GND PULSE(0 1 0 2n 2n 20n {1/FSW})
Vclk2 clk2 GND PULSE(0 1 0 2n 2n 20n {2/FSW})
Vclk4 clk4 GND PULSE(0 1 0 2n 2n 20n {4/FSW})
Vclk8 clk8 GND PULSE(0 1 0 2n 2n 20n {8/FSW})
Bfold1 f1 GND V=limit((V(VSENSE,GND)-{FOLD6})/5m,0,1)
Bfold2 f2 GND V=limit((V(VSENSE,GND)-{FOLD4})/5m,0,1)*(1-V(f1,GND))
Bfold4 f4 GND V=limit((V(VSENSE,GND)-{FOLD2})/5m,0,1)*(1-V(f1,GND))*(1-V(f2,GND))
Bfold8 f8 GND V=(1-V(f1,GND))*(1-V(f2,GND))*(1-V(f4,GND))
Bclk clk GND V=V(clk1,GND)*V(f1,GND)+V(clk2,GND)*V(f2,GND)+V(clk4,GND)*V(f4,GND)+V(clk8,GND)*V(f8,GND)
Vmaxd1 maxd1 GND PULSE(0 1 {DMAX/FSW} 2n 2n 20n {1/FSW})
Vmaxd2 maxd2 GND PULSE(0 1 {2*DMAX/FSW} 2n 2n 20n {2/FSW})
Vmaxd4 maxd4 GND PULSE(0 1 {4*DMAX/FSW} 2n 2n 20n {4/FSW})
Vmaxd8 maxd8 GND PULSE(0 1 {8*DMAX/FSW} 2n 2n 20n {8/FSW})
Bmaxd maxd GND V=V(maxd1,GND)*V(f1,GND)+V(maxd2,GND)*V(f2,GND)+V(maxd4,GND)*V(f4,GND)+V(maxd8,GND)*V(f8,GND)
Aset clk run allow 0 0 nc_set set GND AND Vhigh=1 Vlow=0
Ablank q 0 0 0 0 nc_bl blank_ok GND BUF Vhigh=1 Vlow=0 Td={TONMIN}
Bcmp cmp GND V=0.5*(1+tanh((I(Vsns)-V(ipk,GND))/0.02))
Rcmp cmp GND 1Meg
Areset maxd pk nrun 0 0 nc_rst rst GND OR Vhigh=1 Vlow=0
Apk cmp blank_ok 0 0 0 nc_pk pk GND AND Vhigh=1 Vlow=0
Anrun run 0 0 0 0 nrun nc_nrun GND BUF Vhigh=1 Vlow=0
Alatch set rst 0 0 0 qb q GND SRFLOP Vhigh=1 Vlow=0 Trise=2n Tfall=2n
Rq q GND 1Meg
Rqb qb GND 1Meg
Vsns VIN swin 0
Shs swin PH q GND SWHS
Rboot BOOT PH 10Meg
.model SWHS SW(Ron={RON} Roff=10G Vt=0.5 Vh=-0.1)
.model SSOFF SW(Ron=100 Roff=1G Vt=0.5 Vh=-0.1)
.model DCL D(Is=1e-14 N=0.05)
.ends TPS54332DDA
